US04965274
2,2-Dibutyl-4-(2-quinolylmethoxy)-1-indanone hydrochloride was prepared by treating 2,2-dibutyl-4-(2-quinolylmethoxy)-1-indanone with hydrogen chloride in ethyl ether.

reactant | 2,2-dibutyl-4-(2-quinolylmethoxy)-1-indanone | C(CCC)C1(C(C2=CC=CC(=C2C1)OCC1=NC2=CC=CC=C2C=C1)=O)CCCC | C27H31NO2
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl ether | C(C)OCC | C4H10O
product | 2,2-Dibutyl-4-(2-quinolylmethoxy)-1-indanone hydrochloride | Cl.C(CCC)C1(C(C2=CC=CC(=C2C1)OCC1=NC2=CC=CC=C2C=C1)=O)CCCC | InChI=1S/C27H31NO2.ClH/c1-3-5-16-27(17-6-4-2)18-23-22(26(27)29)11-9-13-25(23)30-19-21-15-14-20-10-7-8-12-24(20)28-21;/h7-15H,3-6,16-19H2,1-2H3;1H
